US08729117B2
To a 5-L round-bottom flask was added methyl (3-bromo-5-formyl-4-hydroxy-phenyl)acetate (210 g, 769 mmol, prepared in Reference A above), dichloromethane (2 L), and N,N-diisopropylethylamine (161 mL, 119 g, 923 mmol). A solution of 2-methoxyethoxymethyl chloride (MEM chloride, obtained from TCI America; 106 mL; 923 mmol) in dichloromethane (500 mL) was added dropwise via an addition funnel over 2 h. The reaction was allowed to stir at ambient temperature for overnight, after which time HPLC analysis showed that the reaction was complete. The reaction mixture was diluted with 0.5 N aqueous HCl (1 L) and the solution was allowed to stir at ambient temperature for 0.25 h, then the layers were separated. The organic layer was washed with additional 0.5 N aqueous HCl, followed by saturated aqueous sodium chloride (1 L). The organic layer was concentrated under vacuum to give an oil, which later solidified upon standing. The solid could be crystallized from ethyl acetate and hexane to yield methyl [3-bromo-5-formyl-4-(2-methoxyethoxymethoxy)phenyl]-acetate (237 g) as a colorless solid.

reactant | methyl (3-bromo-5-formyl-4-hydroxy-phenyl)acetate | BrC=1C=C(C=C(C1O)C=O)CC(=O)OC | C10H9BrO4
reactant | N,N-diisopropylethylamine | 923 mmol, 161 mL, 119 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-methoxyethoxymethyl chloride | 923 mmol, 106 mL | COCCOCCl | C4H9ClO2
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
solvent | HCl | 0.5 N, 1 L | Cl | ClH
solvent | dichloromethane | 2 L | ClCCl | CH2Cl2
product | methyl [3-bromo-5-formyl-4-(2-methoxyethoxymethoxy)phenyl]-acetate | 237 g | BrC=1C=C(C=C(C1OCOCCOC)C=O)CC(=O)OC | C14H17BrO6
